US07071182B2
N-(2,2-dimethoxyethyl)-1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-amine
To a solution of 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine (1.14 g, 0.497 mmol) in 62 mL of dry THF was added 2.04 mL of dimethyl glyoxal in MTBE (45% glyoxal by weight). A slurry of NaBH(OAc)3 (1.66 g, 7.83 mmol) in THF (10 mL) was slowly added via addition funnel over 60 minutes, and the mixture stirred at room temperature. After 12 hours, an additional equivalent of NaBH(OAc)3 was added. After an additional 12 hours, the mixture was quenched with saturated. NaHCO3, filtered, and the solvents removed under reduced pressure. The residue was purified via column chromatography eluting with 5–15% Et3N in EtOAc to provide 650 mg (2.04 mmol) of the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.50–1.74 (m, 4 H) 2.33–2.46 (m, 4 H) 2.81 (t, J=6.78 Hz, 2 H) 3.14 (t, J=5.76 Hz, 2 H) 3.33 (t, 6 H) 4.38 (t, J=6.78 Hz, 2 H) 4.54 (t, J=5.42 Hz, 1 H) 5.26 (t, J=6.10 Hz, 1 H) 6.63–6.73 (m, J=2.03 Hz, 1 H) 6.91 (dd, J=8.98, 2.20 Hz, 1 H) 7.28–7.46 (m, J=8.81 Hz, 1 H) 7.64–7.78 (m, 1 H); MS (ESI) m/z 319 [M+H]+.

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | 0.497 mmol, 1.14 g | N1(CCCC1)CCN1N=CC2=CC(=CC=C12)N | C13H18N4
reactant | dimethyl glyoxal | 2.04 mL | CC(C(=O)C)=O | C4H6O2
reactant | NaBH(OAc)3 | 7.83 mmol, 1.66 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | THF | 62 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | N-(2,2-dimethoxyethyl)-1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-amine | 2.04 mmol, 650 mg | COC(CNC=1C=C2C=NN(C2=CC1)CCN1CCCC1)OC | C17H26N4O2
